US09334269B2
To 2-chloro-4-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidine (90.0 mg, 0.322 mmol) and 3-amino-N-methylbenzamide (53.2 mg, 0.354 mmol) in a disposable sealed tube in 2-propanol (2.50 mL) was added trifluoroacetic acid (0.074 mL, 0.965 mmol). The resulting reaction mixture was heated at 84° C. for 18 h, cooled to RT, concentrated, taken up in MeOH-DCM, filtered through an SCX-2 column with MeOH. The product was eluted with 2.0 M NH3 in MeOH. Fractions containing the product were concentrated to afford 3-(4-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidin-2-ylamino)-N-methylbenzamide (123.9 mg).

reactant | 2-chloro-4-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidine | 0.322 mmol, 90.0 mg | ClC1=NC=CC(=N1)N1CC(C1)OC1=CC=C(C=C1)F | C13H11ClFN3O
reactant | 3-amino-N-methylbenzamide | 0.354 mmol, 53.2 mg | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
reactant | trifluoroacetic acid | 0.965 mmol, 0.074 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2-propanol | 2.50 mL | CC(C)O | C3H8O
product | 3-(4-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidin-2-ylamino)-N-methylbenzamide | 123.9 mg | FC1=CC=C(OC2CN(C2)C2=NC(=NC=C2)NC=2C=C(C(=O)NC)C=CC2)C=C1 | C21H20FN5O2
